US07230141B2
Synthesis, Volume 8 (1993), page 799 discloses hydrogenating 3,4,5-trimethoxybenzaldehyde, dissolved in acetic acid, in the presence of 10% palladium on activated carbon to give 3,4,5-trimethoxytoluene.

reactant | 3,4,5-trimethoxybenzaldehyde | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium on activated carbon | [Pd] | Pd
product | 3,4,5-trimethoxytoluene | COC=1C=C(C=C(C1OC)OC)C | C10H14O3
